US08536203B2
To an ice-cooled solution of 4-(3-(2,5-dichloro-4,6-dimethylpyridin-3-yl)-1,2,4-oxadiazol-5-yl)-2-methoxy-6-nitrophenol (2.40 g, 5.84 mmol) in NMP (19 mL) was added aluminium chloride (0.977 g, 7.33 mmol) followed by addition of pyridine (1.93 mL). The reaction mixture was heated to 60° C. for 1 hour. It was cooled to room temperature and poured into 2 N HCl-solution (ca. 40 mL). The precipitate was filtered off, washed with water and dried under vacuum. Recrystallization from acetic acid yielded 1.88 g (81%) of 5-[3-(2,5-dichloro-4,6-dimethylpyridin-3-yl)-[1,2,4]oxadiazol-5-yl]-3-nitrobenzene-1,2-diol.

reactant | 4-(3-(2,5-dichloro-4,6-dimethylpyridin-3-yl)-1,2,4-oxadiazol-5-yl)-2-methoxy-6-nitrophenol | 5.84 mmol, 2.40 g | ClC1=NC(=C(C(=C1C1=NOC(=N1)C1=CC(=C(C(=C1)[N+](=O)[O-])O)OC)C)Cl)C | C16H12Cl2N4O5
reactant | aluminium chloride | 7.33 mmol, 0.977 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | pyridine | 1.93 mL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 2 N, ca. 40 mL | Cl | ClH
solvent | NMP | 19 mL | CN1CCCC1=O | C5H9NO
product | 5-[3-(2,5-dichloro-4,6-dimethylpyridin-3-yl)-[1,2,4]oxadiazol-5-yl]-3-nitrobenzene-1,2-diol | 1.88 g, 81% | ClC1=NC(=C(C(=C1C1=NOC(=N1)C1=CC(=C(C(=C1)O)O)[N+](=O)[O-])C)Cl)C | C15H10Cl2N4O5
